US05756532
2-Allyloxy-5-chlorophenol
To 14 g (0.35 mole) of 60% sodium hydride/mineral oil dispersion in a two liter flask was added 500 ml of hexane. The mixture was swirled briefly, the solid allowed to settle and the supernatant liquid decanted. DMF (800 ml) was added, followed by a solution of 47 g (0.30 mole) of 5-chlorosalicylaldehyde in 50 ml of DMF. The mixture was stirred at room temperature under nitrogen for 30 minutes, then 54.5 g (0.45 mole) of allyl bromide was added. The mixture was heated at 65° C. under nitrogen for 18 hours. The solvent was then removed in vacuum and replaced with one liter of methylene chloride. This solution was washed with water and with saturated brine and dried over sodium sulfate. It was then filtered and 150 g (0.50-0.75 mole) of 57-86% m-chloroperoxybenzoic acid added and the mixture stirred at room temperature overnight. The reaction was filtered and the filtrate washed with three 400 ml portions of saturated aqueous sodium bicarbonate and with saturated brine, dried over sodium sulfate, filtered and concentrated in vacuum. The residue was dissolved in 750 ml of methanol and stirred with 150 g of basic alumina for 15 hr. The mixture was then filtered and evaporated in vacuum and the crude product partitioned between 500 ml each of 1N NaOH (aq) and methylene chloride. The organic phase was extracted with an additional 500 ml of base, and the combined basic extracts back-washed with 500 ml of methylene chloride. Finally, the basic extracts were carefully acidified with concentrated HCl and extracted with two 400 ml portions of methylene chloride. The combined organic extracts were washed with saturated brine, dried over sodium sulfate, filtered and concentrated in vacuum to give 37.3 g of the title compound as a yellow oil. 1H (CDCl3) singlet, 6.90δ(1 H); quartet, 6.70δ(2 H); singlet, 6.20δ(1 H, OH);.multiplet, 5.97δ(1 H); quartet, 5.25δ(2 H); doublet, 4.50δ(2 H).

reactant | sodium hydride | 0.35 mole, 14 g | [H-].[Na+]
reactant | 5-chlorosalicylaldehyde | 0.30 mole, 47 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | allyl bromide | 0.45 mole, 54.5 g | C(C=C)Br | C3H5Br
reactant | m-chloroperoxybenzoic acid | 0.50-0.75 mole, 150 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | hexane | 500 ml | CCCCCC | C6H14
product | 2-Allyloxy-5-chlorophenol | 37.3 g | C(C=C)OC1=C(C=C(C=C1)Cl)O | C9H9ClO2
